US06355653B1
A suspension of 1.18 g (0.004 mol) 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride in 15 ml chloroform was treated with 6 ml 1N aqueous sodium hydoxide. The mixture was extracted with dichloromethane. The extracts were combined and dried with magnesium sulfate and the solvents were distilled off under reduced pressure. The resulting colorless oil was stirred together with 0.68 g (0.004 mol) 4,5-dimethyl-furan-2-carboxylic acid hydrazide in 10 ml chloroform for 24 hours at reflux temperature. Evaporation of the solvent and chromatography on silicagel with dichloromethane/methanol 19/1 gave 1.14 g (76%) 4,5-dimethyl-furan-2-carboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide as white crystals with mp. 197-199° C., MS m/e (%): 336 (M+H+, 100).

reactant | 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride | 0.004 mol, 1.18 g | Cl.C(C)OC(CS(=O)(=O)C1=CC=CC=C1)=N
reactant | sodium hydoxide | 1N, 6 ml | [OH-].[Na+]
reactant | 4,5-dimethyl-furan-2-carboxylic acid hydrazide | 0.004 mol, 0.68 g | CC=1C=C(OC1C)C(=O)NN | C7H10N2O2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,5-dimethyl-furan-2-carboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide | 1.14 g, 76% | NC(CS(=O)(=O)C1=CC=CC=C1)=NNC(=O)C=1OC(=C(C1)C)C | C15H17N3O4S
